US09216968B2
To a solution of 6-amino-N-(3-chloro-4-methylphenyl)-2-(dimethylamino)-1H-benzimidazole-4-carboxamide (50 mg) in THF (1.5 mL), was added N,N-diisopropylethylamine (37 μL) and the mixture was stirred under ice-cooling. To the mixture was added slowly 2-chloro-6-fluorobenzoyl chloride (24 μL), and it was stirred for 2 hours. The reaction mixture was diluted with ethyl acetate, washed sequentially with saturated aqueous sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified on column chromatography to obtain 6-{[(2-chloro-6-fluorophenyl)carbonyl]amino}-N-(3-chloro-4-methylphenyl)-2-(dimethylamino)-1H-benzimidazole-4-carboxamide (30 mg) as pale yellow powder. This was then suspended in MeOH (1 mL), 2N hydrogen chloride/MeOH (1 Eq) was added to obtain a homogeneous solution, and MeOH was removed under reduced pressure. The residue was triturated in n-hexane/ethyl acetate (1:1), and the precipitate was collected by filtration and dried to obtain the titled compound (24 mg) as pale purple powder.

reactant | 6-amino-N-(3-chloro-4-methylphenyl)-2-(dimethylamino)-1H-benzimidazole-4-carboxamide | 50 mg | NC=1C=C(C2=C(NC(=N2)N(C)C)C1)C(=O)NC1=CC(=C(C=C1)C)Cl | C17H18ClN5O
reactant | N,N-diisopropylethylamine | 37 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-chloro-6-fluorobenzoyl chloride | 24 μL | ClC1=C(C(=O)Cl)C(=CC=C1)F | C7H3Cl2FO
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-{[(2-chloro-6-fluorophenyl)carbonyl]amino}-N-(3-chloro-4-methylphenyl)-2-(dimethylamino)-1H-benzimidazole-4-carboxamide | 30 mg | ClC1=C(C(=CC=C1)F)C(=O)NC=1C=C(C2=C(NC(=N2)N(C)C)C1)C(=O)NC1=CC(=C(C=C1)C)Cl | C24H20Cl2FN5O2
